US04728741
C: N-(3,5-Dichloro-4-methoxybenzyl)-2-nitroaniline
A mixture of 3,5-dichloro-4-methoxybenzylamine (6 g, 29.2 mmole), 2-fluoronitrobenzene (2 g, 14.2 mmole) and ammonium acetate (1.0 g) was heated at 80° for 1 hour. The cooled mixture was taken up into ethyl acetate and washed sequentially with aqueous 3N HCl, water, aqueous 5% sodium bicarbonate, brine, dried (Na2SO4), and concentrated to give the title compound 4.0 g (78%) as orange crystals, mp 128°.

reactant | 3,5-dichloro-4-methoxybenzylamine | 29.2 mmole, 6 g | ClC=1C=C(CN)C=C(C1OC)Cl | C8H9Cl2NO
reactant | 2-fluoronitrobenzene | 14.2 mmole, 2 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ammonium acetate | 1.0 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Dichloro-4-methoxybenzyl)-2-nitroaniline | 4.0 g, 78% | ClC=1C=C(CNC2=C(C=CC=C2)[N+](=O)[O-])C=C(C1OC)Cl | C14H12Cl2N2O3
